US07384945B2
{4-[6-Fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazin-1-yl}-phenyl-methanone
80 mg of 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole (0.16 mmol) and 0.033 ml TEA (0.24 mmol) were dissolved in 1.5 ml dichloromethane and treated with 0.023 ml benzoylchloride (0.2 mmol). After 4 h of stirring at rt, the reaction mixture was diluted with dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 85 mg yellow solid which was purified by column chromatography (10 g silicagel, dichloromethane/methanol 30:1). 71 mg product as a light yellow solid (73%) was obtained. MS (ISP) 605.3 (M+H)+.

reactant | 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole | 0.16 mmol, 80 mg | FC1=CC2=C(N(C(=N2)COC2=CC=CC=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=C1N1CCNCC1 | C26H24F4N4O2
reactant | benzoylchloride | 0.2 mmol, 0.023 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | {4-[6-Fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazin-1-yl}-phenyl-methanone | 71 mg, 73% | FC=1C(=CC2=C(N=C(N2CC2=CC=C(C=C2)OC(F)(F)F)COC2=CC=CC=C2)C1)N1CCN(CC1)C(=O)C1=CC=CC=C1 | C33H28F4N4O3
